US05804532
A mixture of crude t-butyl 2-[2-chloro-4-(methylsulphonyl)benzoyl]-3-oxopentanoate (12.0 g) and 4-toluenesulphonic acid (0.1 g) in toluene was stirred and heated at reflux for 3.5 hours. After cooling, the mixture was washed with water, dried (MgSO4) and filtered. The filtrate was evaporated to dryness and the residue was triturated with ether and filtered to give 1-[2-chloro-4-(methylsulphonyl)phenyl]pentan-1,3-dione (7.02 g) as a white solid NMR(CDCl3): 1.2(t,3H) 2.45 (q,2H) 3.0(s,3H) 5.9(s,1H) 7.5-8.0(m,3H).

reactant | t-butyl 2-[2-chloro-4-(methylsulphonyl)benzoyl]-3-oxopentanoate | 12.0 g | ClC1=C(C(=O)C(C(=O)OC(C)(C)C)C(CC)=O)C=CC(=C1)S(=O)(=O)C | C17H21ClO6S
reactant | 4-toluenesulphonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-[2-chloro-4-(methylsulphonyl)phenyl]pentan-1,3-dione | 7.02 g | ClC1=C(C=CC(=C1)S(=O)(=O)C)C(CC(CC)=O)=O | C12H13ClO4S
